US07977338B2
2-(4-Benzoimidazol-1-yl-phenyl)-N-[4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide
is obtained analogously to the method as described in Example 1 but using (4-benzoimidazol-1-yl-phenyl)-acetic acid instead of (4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid and 4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine instead of 3′-bromo-2-trifluoromethyl-biphen-4-ylamine as a starting material (see WO 03/099771). ES-MS: 508.0 [M+H]+; single peak at tR=2.84 min (System 1); Rf=0.10 (CH2Cl2/MeOH+1% NH3aq, 9:1). Starting material is prepared as follows: Step 2.1: (4-Benzoimidazol-1-yl-phenyl)-acetic acid

reactant | (4-benzoimidazol-1-yl-phenyl)-acetic acid | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H12N2O2
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | CN1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C13H18F3N3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-(4-Benzoimidazol-1-yl-phenyl)-N-[4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)CC(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F | C28H28F3N5O
